US09216980B2
Step 3: 1-(4-Bromo-2,6-diethylbenzyl)-piperidine
4-Bromo-2,6-diethylbenzylamine (90 mg, 0.37 mmol), 1,5-dibromopentane (56 μL, 0.41 mmol) and potassium carbonate (206 mg, 1.5 mmol) were suspended in dioxane (5 mL) and heated at 100° C. overnight. The reaction mixture was then cooled to ambient temperature, the solid removed by filtration and the filtrate concentrated in vacuo to afford an orange oil. The resultant oil was purified by flash chromatography (silica, 12 g column, ISCO, 0-10% methanol in DCM) to afford the title compound as yellow oil (66 mg, 58%). NMR (CDCl3, 300 MHz): 7.16 (s, 2H), 3.38 (s, 2H), 2.80-2.62 (m, 4H), 2.35 (s, 4H), 1.54-1.34 (m, 6H), 1.27-1.13 (m, 6H).

reactant | 4-Bromo-2,6-diethylbenzylamine | 0.37 mmol, 90 mg | BrC1=CC(=C(CN)C(=C1)CC)CC | C11H16BrN
reactant | 1,5-dibromopentane | 0.41 mmol, 56 μL | BrCCCCCBr | C5H10Br2
reactant | potassium carbonate | 1.5 mmol, 206 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 1-(4-Bromo-2,6-diethylbenzyl)-piperidine | 66 mg, 58% | BrC1=CC(=C(CN2CCCCC2)C(=C1)CC)CC | C16H24BrN
